US04182897
Phosphorus pentachloride (22 g) was added to 19.3 g of p-nitrocinnamic acid suspended in 300 ml of ethyl acetate, and the resulting mixture was stirred at room temperature for 1 hour. After the reaction, the solvent was distilled off under reduced pressure, upon which p-nitrocinnamoyl chloride precipitated. The precipitates thus obtained were dissolved in 300 ml of ethyl acetate, and 9.4 g of phenol was added to the resulting solution, after which 12 g of triethylamine was slowly added thereto at room temperature with stirring. After reaction at room temperature for 1 hour, the reaction mixture was washed with 10% HCl, 10% NaOH and water in this order and dried on anhydrous magnesium sulfate. The solvent was then distilled off under reduced pressure, to obtain phenyl p-nitrocinnamate. Yield: 25.5 g (95%); melting point: 151°-152° C.; IR (cm-1): 1720, 1529, 1345.

reactant | Phosphorus pentachloride | 22 g | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
reactant | p-nitrocinnamic acid | 19.3 g | [N+](=O)([O-])C1=CC=C(C=CC(=O)O)C=C1 | C9H7NO4
reactant | phenol | 9.4 g | C1(=CC=CC=C1)O | C6H6O
reactant | triethylamine | 12 g | C(C)N(CC)CC | C6H15N
solvent | ethyl acetate | 300 ml | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 300 ml | C(C)(=O)OCC | C4H8O2
product | phenyl p-nitrocinnamate | [N+](=O)([O-])C1=CC=C(C=CC(=O)OC2=CC=CC=C2)C=C1 | C15H11NO4
